US08008340B2
Treat 1H-indole-2-carboxylic acid 3 (X═H, 1.0 mg, 6.21 mmol) with N-(tert-butoxycarbonyl)piperazine (1.10 equiv., 1.3 g, 6.83 mmol) as described in General Synthetic Procedure VIa to afford 4-(1H-indole-2-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester 8 (X═H, R4=piperazin-4-yl-1-carboxylic acid tert-butyl ester; 2.0 g, 99%) as a white solid, mp 205-206° C. 1H NMR (DMSO-d6) δ 11.6 (brs, 1H), 7.6 (d, 1H), 7.4 (d, 1H), 7.2 (t, 1H), 7.1 (t, 1H0, 6.8 (s, 1H), 3.8-3.7 (m, 4H), 3.5-3.4 (m, 4H), 1.4 (s, 9H); m/z=330 (M+1). Treat 4-(1H-indole-2-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester (329 g, 1.0 mmol) with phenyldisulfide (283 mg, 1.3 equiv., 1.3 mmol) as described in General Synthetic Procedure VIIa and then treat with trifluoroacetic acid (4 mL) in HOAc, to remove the Boc protecting group, to afford (3-phenylsulfanyl-1H-indol-2-yl)-piperazin-1-yl-methanone. Dissolve (3-phenylsulfanyl-1H-indol-2-yl)-piperazin-1-yl-methanone in EtOAc and treat with 1N HCl/Et2O to provide the title compound Iae (103 mg, 29%) as a tan solid, mp 240° C. (dec); m/z=338 (M+1).

reactant | 4-(1H-indole-2-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.0 mmol, 329 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1NC2=CC=CC=C2C1 | C18H23N3O3
reactant | phenyldisulfide | 1.3 mmol, 283 mg, 1.3 equiv. | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | HOAc | CC(=O)O | C2H4O2
product | (3-phenylsulfanyl-1H-indol-2-yl)-piperazin-1-yl-methanone | C1(=CC=CC=C1)SC1=C(NC2=CC=CC=C12)C(=O)N1CCNCC1 | C19H19N3OS
